### PR TITLE
Simplify division of Cauchy reals

### PR DESCRIPTION
**Pull request by VincentSe**
**Kind:** feature

Simplify the formula that computes the division of Cauchy reals.

### CODE REVIEW

File: theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v [hunk 1]
```diff
@@ -189,49 +189,60 @@ Proof.
...
+  intros. destruct x as [xn caux].
+  unfold proj1_sig. unfold proj1_sig in H.
+  specialize (caux n n p (Pos.le_refl n) H0).
+  apply (Qplus_lt_l _ _ (xn n-xn p)).
+  apply (Qlt_trans _ ((1#n) + (1#n))).
+  apply Qplus_lt_r. exact (Qle_lt_trans _ _ _ (Qle_Qabs _) caux).
+  rewrite Qinv_plus_distr. ring_simplify. exact H.
+Qed.
+
+Lemma CReal_mult_lt_0_compat_correct
```
Comment (MSoegtropIMC) [inline theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v:206]: Maybe a comment "correctness lemma for below Definition CReal_mult_lt_0_compat" would help the reader not to spend too much time trying to understand the purpose of this lemma.

File: theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v [hunk 2]
```diff
@@ -189,49 +189,60 @@ Proof.
...
+  - apply Qmult_lt_compat_r. reflexivity. apply H1, H3.
+  - apply Qmult_lt_l.
+    apply (Qlt_trans _ (1#x0)). reflexivity. apply H1, H3.
+    apply H2. apply (Pos.le_trans _ (2 * Pos.max Ax Ay * x1)).
+    apply belowMultiple. apply Pos.mul_le_mono_l. apply belowMultiple.
+  - unfold Qeq, Qmult, Qnum, Qden.
+    rewrite Z.mul_1_l, <- Pos2Z.inj_mul. reflexivity.
 Qed.
 
+Definition CReal_mult_lt_0_compat : forall x y : CReal,
```
Comment (MSoegtropIMC) [inline theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v:240]: It would be interesting to know why this is a Definition and not a lemma, that is in which contexts it is used computationally.

File: theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v [hunk 3]
```diff
@@ -904,98 +915,60 @@ Proof.
...
-    specialize (cau n (Pos.max n k) n (Pos.le_max_l _ _ ) (Pos.le_refl _)).
-    apply (Qlt_not_le _ _ maj). clear maj.
-    rewrite Qabs_Qminus in cau.
-    apply (Qle_trans _ (Qabs (xn n - xn (Pos.max n k)))).
-    apply Qle_Qabs. apply Qlt_le_weak. apply (Qlt_trans _ _ _ cau).
-    unfold Qlt, Qnum, Qden.
-    apply Z.mul_lt_mono_pos_r. reflexivity. reflexivity.
-Qed.
-
 (* Find a positive negative real number, which rational sequence
```
Comment (MSoegtropIMC) [inline theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v:918]: Please review this comment.

File: theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v [hunk 4]
```diff
@@ -904,98 +915,60 @@ Proof.
...
+  unfold proj1_sig in pmaj.
+  apply (Qlt_le_trans _ _ _ maj).
+  ring_simplify. apply Qle_refl. apply pmaj.
 Qed.
 
-Lemma CReal_inv_pos_cauchy : forall (x : CReal) (xPos : 0 < x),
-    QCauchySeq (fun n : positive
-                => / proj1_sig x (Pos.max ((CRealPosShift x xPos) ^ 2 * n)
-                                         (CRealPosShift x xPos))).
+Lemma CReal_inv_pos_cauchy
```
Comment (MSoegtropIMC) [inline theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v:933]: Can you give a short explanation why the modulus has to be cubic in k?

**Review by MSoegtropIMC — APPROVED** [review]
Besides the purely editorial comments this looks good to me.

File: theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v (hunk 4 above)
Comment (VincentSe) [reply theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v:933]: It's quadratic in k. That because `1/x - 1/y = (y-x) / xy`, so `y-x` must have a quadratic acceleration to neutralize the quadratic denominator `xy`.

File: theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v (hunk 3 above)
Comment (VincentSe) [reply theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v]: done

File: theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v (hunk 2 above)
Comment (VincentSe) [reply theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v:243]: done

File: theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v (hunk 1 above)
Comment (VincentSe) [reply theories/Reals/Cauchy/ConstructiveCauchyRealsMult.v:207]: done

**Comment by VincentSe** [comment]
@MSoegtropIMC All tests passed, could you merge? Besides you will need this PR before you start working on the multiplication and division.

**Comment by MSoegtropIMC** [comment]
Sure, I will merge soon.

**Comment by Zimmi48** [comment]
The 8.12.0 milestone should never be used for merging a PR until 8.12+beta1 is released or very close to be.

**Comment by MSoegtropIMC** [comment]
OK. So the rule is to always use the next minor milestone for the intended major milestone?
